US04345084
2-acetyl-6-(trimethylsilyl)-5-hexynoic acid ethyl ester (7.1 g) was added to a suspension of sodium hydride (1.0 g) in toluene under a positive argon atmosphere. After stirring for 1 hour, the reaction mixture was cooled to -10° and a mixture of perchloryl fluoride and argon gases was bubbled through the reaction mixture at such a rate that the internal temperature never exceeded 0° C. The perchloryl fluoride addition was discontinued when it ceased to be exothermic. Argon was bubbled through the mixture as it was allowed to warm to room temperature. The reaction mixture was partitioned between hexane and water and the organic phase was dried (MgSO4) and condensed by rotary evaporation to give an oil. The components of the oil were separated by silica gel chromatography using 30% ethyl acetate/hexane as the eluant to give 5.9 g of 2-acetyl-2-fluoro-6-(trimethylsilyl)-5-hexynoic acid ethyl ester. There was also obtained 0.25 g of 2-fluoro-6-(trimethylsilyl)-5-hexynoic acid ethyl ester.

reactant | 2-acetyl-6-(trimethylsilyl)-5-hexynoic acid ethyl ester | 7.1 g | C(C)OC(C(CCC#C[Si](C)(C)C)C(C)=O)=O | C13H22O3Si
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | perchloryl fluoride | Cl(=O)(=O)(=O)F | ClFO3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-acetyl-2-fluoro-6-(trimethylsilyl)-5-hexynoic acid ethyl ester | 5.9 g | C(C)OC(C(CCC#C[Si](C)(C)C)(F)C(C)=O)=O | C13H21FO3Si
